US04044026
The procedure described in Example 3 is repeated but 11.9 g of 2-methyl-4,4-diethoxy-2-butenal is used insteat of 16.3 g of 2-methyl- 4-bromo-2-butenal. Pure 2-methyl-4,4-diethoxybutanal is obtained in a yield of 89% of theory.

reactant | 2-methyl-4,4-diethoxy-2-butenal | 11.9 g | CC(C=O)=CC(OCC)OCC | C9H16O3
reactant | 2-methyl- 4-bromo-2-butenal | 16.3 g | CC(C=O)=CCBr | C5H7BrO
product | 2-methyl-4,4-diethoxybutanal | yield of 89% | CC(C=O)CC(OCC)OCC | C9H18O3
